US04607123
N-(3,5-diacetamido-2,4,6-triiodobenzoyl)-β-alanine-o-nitrophenyl ester (XXIV)
Following the procedure of example 33 the product is synthesized from 13.7 g (20 mMol) N-(3,5-diacetamido-2,4,6-triiodobenzoyl)-β-alanine, 3.5 g (25 mMol)-o-nitrophenol and 5 g (24 mMol) N,N'-dicyclohexylcarbodiimide. Yield 11 g (68%).

reactant | N-(3,5-diacetamido-2,4,6-triiodobenzoyl)-β-alanine | 20 mMol, 13.7 g | C(C)(=O)NC=1C(=C(C(=O)NCCC(=O)O)C(=C(C1I)NC(C)=O)I)I | C14H14I3N3O5
reactant | o-nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 24 mMol, 5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | N-(3,5-diacetamido-2,4,6-triiodobenzoyl)-β-alanine-o-nitrophenyl ester | [N+](=O)([O-])C1=C(C=CC=C1)OC(CCNC(C1=C(C(=C(C(=C1I)NC(C)=O)I)NC(C)=O)I)=O)=O | C20H17I3N4O7
